US09388144B2
A solution of 6-((4-(prop-2-yn-1-yloxy)benzyl)amino)hexanoic acid (0.4125 g, 1.50 mmol), tert-butyl 2-(2-formyl-1H-imidazol-1-yl)acetate (0.315 g, 1.50 mmol) and AcOH (0.05 mL) in DCE (40 mL) at 0° C. was treated with NaBH(OAc)3 (0.636 g, 3.0 mmol). The reaction mixture was stirred at 0° C. for 30 min and at room temperature for overnight and decomposed with water and methanol. The reaction mixture was concentrated under reduced pressure to give a residue, which was purified by Biotage SP4 over silica gel to afford 6-(((1-(2-(tert-butoxy)-2-oxoethyl)-1H-imidazol-2-yl)methyl)(4-(prop-2-yn-1-yloxy)benzyl)amino)hexanoic acid (0.268 g, 38%). MS (ESI), 470.3 (M+H)+.

reactant | 6-((4-(prop-2-yn-1-yloxy)benzyl)amino)hexanoic acid | 1.50 mmol, 0.4125 g | C(C#C)OC1=CC=C(CNCCCCCC(=O)O)C=C1 | C16H21NO3
reactant | tert-butyl 2-(2-formyl-1H-imidazol-1-yl)acetate | 1.50 mmol, 0.315 g | C(=O)C=1N(C=CN1)CC(=O)OC(C)(C)C | C10H14N2O3
reactant | AcOH | 0.05 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 3.0 mmol, 0.636 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 40 mL | ClCCCl | C2H4Cl2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 6-(((1-(2-(tert-butoxy)-2-oxoethyl)-1H-imidazol-2-yl)methyl)(4-(prop-2-yn-1-yloxy)benzyl)amino)hexanoic acid | 0.268 g, 38% | C(C)(C)(C)OC(CN1C(=NC=C1)CN(CCCCCC(=O)O)CC1=CC=C(C=C1)OCC#C)=O | C26H35N3O5
